US06472564B1
In a process for producing a meta-toluene diamine mixture wherein toluene is contacted with nitric acid in the presence of sulfuric acid under conditions for producing a reaction product containing primarily a dinitrotoluene isomer mixture, the dinitrotoluene recovered and then contacted with hydrogen in the presence of a hydrogenation catalyst, the resulting reaction product containing 2,4- and 2,6-toluene diamine formed into a liquid toluene diamine mixture, distilled in a column at elevated temperature to remove any water, ortho-toluene diamine and by-products, the substantially anhydrous meta-toluene diamine isomer mixture recovered from the bottom of the column, the improvement for preparing the resulting meta-toluene diamine isomer mixture for storage and/or transport which comprises:

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | dinitrotoluene | [N+](=O)([O-])C=1C(=C(C=CC1)C)[N+](=O)[O-] | C7H6N2O4
product | toluene diamine | C1(=C(C(=CC=C1)N)N)C | C7H10N2
